US04863929
3-(13-Acetoxy-6-methyl-8α-ergolinyl)-1,1-diethylurea
At room temperature, 100 mg of 1,1-diethyl-3-(13-hydroxy-6-methyl-8α-ergolinyl)urea is dissolved in 1 ml of pyridine and 1 ml of acetic anhydride. After one hour, the mixture is poured on ice, extracted, after 15 minutes of stirring, with methylene-chloride, the organic phase is dried with sodium sulfate, and evaporated. The residue is crystallized from ethyl acetate.

reactant | 1,1-diethyl-3-(13-hydroxy-6-methyl-8α-ergolinyl)urea | 100 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=CNC4=CC(=CC([C@H]2C1)=C34)O)C)CC | C20H28N4O2
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 3-(13-Acetoxy-6-methyl-8α-ergolinyl)-1,1-diethylurea | C(C)(=O)OC=1C=C2NC=C3C[C@H]4N(C[C@H](C[C@@H]4C(C1)=C32)NC(N(CC)CC)=O)C | C22H30N4O3
